US07728012B2
1.1 Ethyl 2-(4-phenyl-1H-imidazol-1-yl)pyridine-3-carboxylate
A mixture of 5.0 g of ethyl 2-chloronicotinate (26.94 mmol), 3.4 g of 4-phenylimidazole (23.58 mmol), 7.6 g of K2CO3 and 80 mg of 18-crown-6 in 18 ml of N,N-dimethylformamide was heated in a microwave at 160° C. for about 1 hour. This was followed by concentrating, taking up the residue in dichloromethane, washing with water and sat. NaCl solution, drying over MgSO4, filtering and evaporating. Chromatography on silica gel (eluent: CH2Cl2/methanol 2%-5%) resulted in 2 g of a dark oil, which was immediately reacted further; ESI-MS [M+H]+=294.15.

reactant | ethyl 2-chloronicotinate | 26.94 mmol, 5.0 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 4-phenylimidazole | 23.58 mmol, 3.4 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | K2CO3 | 7.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 80 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | Ethyl 2-(4-phenyl-1H-imidazol-1-yl)pyridine-3-carboxylate | 2 g | C1(=CC=CC=C1)C=1N=CN(C1)C1=NC=CC=C1C(=O)OCC | C17H15N3O2
